US08703771B2
Step C: (1S)-1-(4-Methylpiperazin-1-yl)-N-(4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-2,3-dihydro-1H-indene-5-carboxamide
N-(5-Amino-2-methylphenyl)-4-(3-pyridyl)-2-aminopyrimidine (681 g, 2.46 mol, 1.1-fold) was dissolved in pyridine (3 L). (1S)-1-(4-Methylpiperazin-1-yl)-2,3-dihydro-1H-indene-5-carbonyl chloride hydrochloride (1325 g, the actual maximum content of 626 g, equivalent to 2.235 mol, 1-fold) was added slowly within 30 minutes with stirring. The solution turned very hot since the reaction was severe but there was no need to have it cool down. After the solution was stirred overnight at room temperature, the reaction solution was added to 2 N aqueous solution of sodium hydroxide (2 L) with stirring, immediately followed by addition of methylene dichloride (2 L). After being stirred for a while, the solution was transferred to a 5 L separatory funnel and then methylene chloride layer was separated. The water phase was extracted with methylene chloride (2×500 mL). The extracts were pooled, dried over anhydrous magnesium sulfate, and then concentrated. The residue was dissolved in methylene dichloride and then purified by silica gel column chromatography using methylene chloride/5% methanol/1% triethylamine as eluent. The fractions containing the desired product were pooled, and concentrated under reduced pressure. The residue was dissolved in 1 L of warm ethyl acetate and crystals were precipitated after stirring. The solid was collected by filtration and dried in vacuum at 50° C. to obtain the title product (617 g, 53% total yield of the three steps). MS (M+1)=520.27.

reactant | N-(5-Amino-2-methylphenyl)-4-(3-pyridyl)-2-aminopyrimidine | 2.46 mol, 681 g | NC=1C=CC(=C(C1)N1C(N=C(C=C1)C=1C=NC=CC1)N)C | C16H17N5
reactant | (1S)-1-(4-Methylpiperazin-1-yl)-2,3-dihydro-1H-indene-5-carbonyl chloride hydrochloride | Cl.CN1CCN(CC1)[C@H]1CCC2=CC(=CC=C12)C(=O)Cl
reactant | sodium hydroxide | 2 L | [OH-].[Na+]
reactant | methylene dichloride | 2 L | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3 L | N1=CC=CC=C1 | C5H5N
product | (1S)-1-(4-Methylpiperazin-1-yl)-N-(4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-2,3-dihydro-1H-indene-5-carboxamide | CN1CCN(CC1)[C@H]1CCC2=CC(=CC=C12)C(=O)NC1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C31H33N7O
